US05401772
3,5-Dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene (10.63 g) in 100 ml. dichloromethane is cooled in a dry ice/acetone bath and 60 ml of 1M boron tribromide in dichloromethane is added at less than -40°. After addition is completed, the mixture is stirred 18 hours at room temperature, poured into ice, and extracted twice with ethyl acetate. The combined organic layers are dried, filtered, and stripped to yield 3,5-dichloro-4-(3'-isopropyl-4' -hydroxyphenoxy)-nitrobenzene. NMR(CDCl3): δ1.2 (6H,d), 3.3 (1H,m), 6.5 (1H, d of d), 6.7 (1H,d), 6.8 (1H,d), 8.3 (2H,s).

reactant | 3,5-Dichloro-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene | 10.63 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)[N+](=O)[O-] | C16H15Cl2NO4
reactant | boron tribromide | 1M, 60 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,5-dichloro-4-(3'-isopropyl-4' -hydroxyphenoxy)-nitrobenzene | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl)[N+](=O)[O-] | C15H13Cl2NO4
